US08610345B2
A mixed solution of 10 g of 2-bromonitrobenzene, 8.5 g of 4-chlorophenylboronic acid, 25.4 g of tripotassium phosphate, 3.9 g of tetrabutylammonium bromide, 270 mg of palladium acetate and 150 ml of dimethylformamide was heated and stirred under a nitrogen gas stream at 130° C. for 3 hours. The solution was cooled to room temperature and 100 ml of water was poured into the solution, followed by extraction with 150 ml of ethyl acetate. The organic layer was washed twice with 100 ml of water, dried over magnesium sulfate and then evaporated. The concentrate was purified by silica gel column chromatography and then vacuum-dried to obtain 8.6 g of 2-(4-chlorophenyl)nitrobenzene.

reactant | 2-bromonitrobenzene | 10 g | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 4-chlorophenylboronic acid | 8.5 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | tripotassium phosphate | 25.4 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 3.9 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 270 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 100 ml | O | H2O
product | 2-(4-chlorophenyl)nitrobenzene | 8.6 g | ClC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C12H8ClNO2
